US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-hydroxyindane-5-carboxamide
To an ice-cold solution of N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-oxoindane-5-carboxamide prepared by the method in EXAMPLE SP-201 (66 mg, 0.13 mmol) in methanol (3 mL) is added sodium borohydride (20 mg, 0.52 mmol). The reaction stirred at room temperature 3 h. The reaction is concentrated under reduced pressure, redissolved in water (3 mL) and partitioned into ethyl acetate. The organic layer is washed with water, saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure to give the title compound. ESI MS m/z 495.2 [M+H]+.

reactant | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-oxoindane-5-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C3C(CCC3=CC2)=O)C=C(C1)F | C29H30F2N2O3
reactant | SP-201 | 0.13 mmol, 66 mg | CCCCCC(C)COC(=O)C1=CC=NC=C1 | C14H21NO2
reactant | sodium borohydride | 0.52 mmol, 20 mg | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-hydroxyindane-5-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C3C(CCC3=CC2)O)C=C(C1)F | C29H32F2N2O3
